US06331640B1
A mixture of N-[2-chloro-4-(tri-n-butylstannyl)benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine on Wang resin (Example 375; 100 mg), phenoxyacetyl chloride (100 μL, 0.72 mmol), tris(dibenzylideneacetone)dipalladium(0) (18 mg, 0.02 mmol), potassium carbonate (50 mg, 0.36 mmol) and diisopropylethylamine (100 μL, 0.57 mmol) in tetrahydrofuran (2 mL) was shaken for 2 h, then washed with water, dichloromethane, and methanol. Cleavage was effected by treatment with trifluoroacetic acid/dichloromethane (1:1; 4 mL) and shaking for an hour. The cleavage solution was collected by filtration and the solvent was evaporated. The residue was purified by reverse phase HPLC to give N-[2-chloro-4-(phenoxyacetyl)benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine.

reactant | N-[2-chloro-4-(tri-n-butylstannyl)benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2SC=CC2)C(=O)O)C=CC(=C1)[Sn](CCCC)(CCCC)CCCC
reactant | phenoxyacetyl chloride | 0.72 mmol, 100 μL | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | potassium carbonate | 0.36 mmol, 50 mg | C([O-])([O-])=O.[K+].[K+]
reactant | diisopropylethylamine | 0.57 mmol, 100 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.02 mmol, 18 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[2-chloro-4-(phenoxyacetyl)benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2SC=CC2)C(=O)O)C=CC(=C1)C(COC1=CC=CC=C1)=O | C23H19ClN2O6S
